Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Latex
 
Attending: ___.
 
Chief Complaint:
Chest pain.
 
Major Surgical or Invasive Procedure:
___ guided PICC placement.
 
History of Present Illness:
___ y/o female with PMH sickle cell disease, multiple PEs (last 
___, seizure disorder and borderline personality disorder. 
She was discharged yesterday after a 4 day hospitalization for 
mennorhagia, she did not require a transfusion at that time. 
Today patient presents to the ED from clinic describing chest 
pain of 1 days duration, patient feels is similiar to prior 
episodes of sickle cell crisis.  
.
On the floor, the patient is complaining of ___ pain "all 
over" states pain is mostly in her chest and joints. This is 
typical for her pain crisis which occur about once a month. She 
is unable to identify any specific triggers, although does 
endorse decreased PO lately due to decreased appetite. Her 
vaginal bleeded has ceased. She endoreses depression and 
suicidal ideation, saying she will only hurt herself if she 
doesn't get pain medication.  
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.
 
Past Medical History:
Sickle cell (HbSS) disease with frequent hospitalizations with 
pain crises. 
s/p acute chest syndrome requiring intubation in ___. 
? CVA in ___
Pulmonary embolus in ___. 
Asthma
Borderline personality disorder/PTSD with history of suicidal 
ideation, past psychiatric hospitalizations.
Transfusion-related Hepatitis C
s/p cholecystectomy
Hx of seizure disorder-details unknown
Hx of numerous port-a-cath placements
Hx of coag-negative staph and MSSA line infections
Hyperprolactinemia

 
Social History:
___
Family History:
-mother ___ sickle trait
-father ___ has sickle cell anemia

 
Physical Exam:
PE at ADMISSION:
Vitals - T:99.4 BP:120/73 HR:100 RR:18 02 sat:100% RA  
GENERAL: Laying in bed, depresed affect, fatigued, soft voice  
HEENT: No scleral icterus. MMM  
NECK: tender cervical LAD  
CARDIAC: RRR, S1, S2, murmur at LUSB, no r/g  
LUNG: CTAB  
ABDOMEN: Soft, tenderness in LUQ and mild tenderness in LLQ, non 
distended. + BS, no rebound/guarding
EXT: No edema in upper and lower extremities.  
NEURO: CNII-XII intact, strenth and sensation intact and 
symmetric.  
DERM: Scars on chest from prior line placement.  
.
MORNING OF DISCHARGE:
Physical exam notable for:
VITALS:
T: 99.5
HR: 86
BP: 91/53
RR: 16
O2Sat: 100% on room air
HR: GENERAL: Laying in bed, fatigued, speaks only in short 
phrases when questioned directly, depressed affect
CV: RRR, no m/r/g
LUNG: CTAB

 
Pertinent Results:
Labs on admission ___:
WBC-6.0 Hgb-8.1 Hct-24.5 MCV-117 Plt ___
Hypochr-1+ Anisocy-2+ Poiklo-3+ Macrocy-2+ Microcy-1+ 
Polychr-OCCASIONAL Spheroc-OCCASIONAL Ovalocy-1+ Target-1+ 
Sickle-1+ Schisto-OCCASIONAL Ellipto-1+

___ PTT-26.7 ___
Ret Man-10.5

Chem 7 WNL

Phenytoin level-8.3

Labs at discharge ___:

WBC: 5.1, Hb:8.3 Hct:24.4, Plat:337
___, PTT:37.6, INR:2.3

Na:140, K:4.2, Cl:109, HCO3:25, BUN:4 Cr:0.4 Gluc:93.

.
EKG: Sinus at 95, normal acis and intervals. S1Q3T3 present as 
before from ___. TWI V1-V5 also not new.  
.  
CXR ___ PA and lateral: compared to ___. Heart size 
is unchanged. Configuration suggests a mild prominence of the 
left ventricular contour and a double contour in the right heart 
shadow matches a prominent left atrial contour in posterior 
direction on the lateral view. Thus, at least moderate left 
atrial enlargement is present. A pulmonary vasculature has not 
undergone any significant interval change and is not congested 
presently. Lateral and posterior pleural sinuses are free and no 
acute infiltrates can be seen. No pneumothorax in the apical 
area. Thus chest appearance is unaltered since the preceding 
study of ___. When comparison is extended to a PA and lateral 
chest examination of ___, the heart shadow was slightly larger 
at that time and the pulmonary vasculature appeared slightly 
more prominent. These subtle variations suggest the possibility 
of acute cardiac problems of less acute level. All the EKG 
changes ? recommend cardiology consultation in this case with 
known sickle cell syndrome.
.  
___ Bilateral lower extremity doppler: no DVT
.
___ MRI/MRA Head:
FINDINGS: The sulci are prominent for the patient's age of ___ 
years. The 
ventricular system is normal in size and configuration without 
evidence of 
mass effect or shift of the normally midline structures. There 
is no evidence of restricted diffusion to suggest acute 
ischemia. There is an increase in flow voids overlying the 
cortex bilaterally which may represent prominent collaterals. 
The cerebral parenchyma demonstrates normal signal intensity on 
all imaging sequences. There is mucosal thickening of a few 
bilateral ethmoid air cells. 
  
The vertebral arteries are codominant. The internal carotid, 
anterior, 
middle, and posterior cerebral arteries are unremarkable. The 
anterior and 
posterior communicating arteries are visualized. There is no 
evidence of 
occlusion, stenosis, aneurysm, or arteriovenous malformation. 
  
The clivus demonstrates heterogenous bone marrow signal which 
may be secondary to underlying sickle cell disease. 
  
IMPRESSION: 
  
1. Mild diffuse volume loss for the patient's age of ___ years. 
  
2. Prominent leptomeningeal collaterals of undetermined 
significance. 
  
3. Otherwise, unremarkable MRI/MRA of the brain. 
.
Per Radiology (verbal communication): PICC line appropriately 
placed for use.
  

 
Brief Hospital Course:
In the ED, initial VS: 99.7 104 124/77 20 100RA. Her hematocrit 
was above her baseline at 27 but she did have a markedly 
elevated LDH. She was given dilaudid and benadryl (for itching 
associated with dilaudid). It was difficult to obtain IV access 
(pt has past history of several port-a-caths, last removed due 
to bacteremia). She eventually had a 22g IV placed. The ED 
wanted a CTA to eval for PE, but pt was unable to to get this 
due to inadequate IV access. She was given a dose lovenox as 
well as 1L IVF. A psych consult was called in the ED for SI. Pt 
is well known to their service and will frequently endorse SI 
during acute pain crises. They recommended a 1:1 sitter. At the 
time of transfer her VS: 99 115/60 95 19 98% RA. 
.
# Chest pain: Pt reported this was similar to prior pain crisis. 
She did not appear to be having acute chest crisis. No further 
imaging for PE was performed as it would not change management. 
Pt was given agressive IV hydration and pain control with home 
MS contin, IV dilaudid q3h PRN and IV benadryl for pruritis. She 
was continued on folic acid and hydroxyurea. Her pain regimen 
was adjusted over the course of her inpatient admission, but in 
the end continuation of her previous (pre-hospital) regimen of 
MS contin, and PRN PO dilaudid was the most effective.
.  
# PE -Pt with recurrent PEs, last dx ___. Started bridge to 
coumadin for last PE but coumadin decreased in setting of recent 
hospitalization for menorrhagia. INR was subtherapeutic at 
admission. Pt was bridged to coumadin with lovenox and INR at 
discharge was 2.3. On discharge she will take one more day of 
lovenox and then her bridge will be complete and she will 
continue on solely coumadin, with INR adjustment through the ___ 
___ clinic.
.
# Left sided weakness - pt c/o worsening L sided weakness. She 
has h/o R mini CVA with residual L weakness but stated it 
increased. Neuro was consulted to evaluate for stroke (full note 
in OMR). Although there was low suspicion for stroke, given pt's 
high risk and eqivocal exam, MRI/MRA was performed. This study 
was unremarkable for stroke.
.  
# Seizure d/o - Phenytoin level was subtherapeutic at admission; 
pt was continued on phenytoin.

# Borderline personality d/o - Suicidal ideation - Pt has h/o 
self injurious behavior and reported feeling that she "feels 
like dying" when in pain. When asked if she wanted to kill 
herself, she stated, "I do not know." No plan for suicide, no 
homocidal ideation. Psych was consulted in the ED and pt was put 
1:1 sitter and placed on ___. Psychiatry saw her the day 
of discharge and their impression was: "Pt has chronic 
suicidality which is presently at baseline. There is no current 
plan or intent. Such symptoms are best managed in an intensive 
outpatient setting such as pt's DBT Partial Hospital Program. 
She is attached to her treaters there
and wishes to go back. They are willing to take her back. She 
has demonstrated that she will return if she feels acutely 
unsafe or unable to care for herself."

 
Medications on Admission:
MEDICATIONS:  
1. Hydromorphone 4 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain: hold for somnolence, RR<12.  
2. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) Inhalation Q4H (every 4 hours) as  
needed for wheezing.  
3. Citalopram 20 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
4. Diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO Q6H 
 
(every 6 hours) as needed for itching.  
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
 
times a day).  
6. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
8. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY.  
9. Hydroxyzine HCl 25 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for itching.  
10. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY.  

11. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
12. Morphine 30 mg Tablet Sustained Release Sig: Two (2) Tablet 
Sustained Release PO Q8H (every 8 hours): hold for somnolence, 
RR<12.  
13. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.  
14. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) 
Capsule PO BID (2 times a day).  
15. Promethazine 25 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for nausea.  
16. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
17. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
TID (3 times a day) as needed for congestion.  
18. Lovenox 40 mg/0.4 mL Syringe Sig: One (1) Subcutaneous every 
twelve (12) hours for 5 days: Please draw daily INRs - continue 
Lovenox until INR ___ for 48 hours.  
19. Warfarin 5 mg Tablet Sig: One (1) Tablet PO once a day: 
please hold for INR>3.
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).
Disp:*90 Capsule(s)* Refills:*2*
6. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).
Disp:*60 Capsule(s)* Refills:*2*
7. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).
Disp:*30 Tablet(s)* Refills:*2*
8. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) Capsule 
PO BID (2 times a day).
Disp:*120 Capsule(s)* Refills:*2*
9. Warfarin 2.5 mg Tablet Sig: Three (3) Tablet PO Once Daily at 
4 ___.
Disp:*90 Tablet(s)* Refills:*2*
10. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
BID (2 times a day) as needed for nasal dryness.  
11. Morphine 30 mg Tablet Sustained Release Sig: Two (2) Tablet 
Sustained Release PO Q12H (every 12 hours).
Disp:*60 Tablet Sustained Release(s)* Refills:*0*
12. Hydromorphone 4 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
13. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) inhalation Inhalation every four (4) 
hours as needed for SOB, wheeze.  
14. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.
Disp:*30 Tablet(s)* Refills:*1*
15. Polyethylene Glycol 3350 100 % Powder Sig: One (1) 17g PO PO 
DAILY (Daily) as needed for constipation.  
16. Enoxaparin 60 mg/0.6 mL Syringe Sig: One (1) 50mg SC 
Subcutaneous Q12H (every 12 hours) for 1 days: Please give 
Lovenox tomorrow (___) only.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Sickle Cell Crisis

 
Discharge Condition:
Pain controlled. Psychiatry agrees with safety of the discharge. 
Therapeutic INR.

 
Discharge Instructions:
You were admitted with chest pain. It was determined you did not 
have acute chest syndrome. We gave you lots of fluids and 
controlled your pain. You also complained of worsening left 
sided weakness. Neurology saw you and we ordered an MRI/MRA of 
the brain to determine if you had a stroke. It did not 
demonstrate an acute stroke.  It was difficult to get IV access 
so you underwent ___ guided PICC placement. Psychiatry saw you 
and felt that you were safe to go home. For pain, you are being 
discharged on your home pain medicine regimen.
 
Followup Instructions:
___